datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[Si](C)(CN)O[Si](C)(C)C[NH2:10].Cc1ccc2c(c1)c1c(c(C)[n+:21]2[H:20])C(C)C(C)O1>>C[Si](C)(CN)O[Si](C)(C)C[NH2+:10][H:20].Cc1ccc2c(c1)c1c(c(C)[n:21]2)C(C)C(C)O1 10=20;20,21=21",
"C=Cc1cccc[n+:21]1[H:20].C[C@@]12CC(=O)N[C@]1(CCC(=O)[O-])C(=O)[N-:10]C2=O>>C=Cc1cccc[n:21]1.C[C@@]12CC(=O)N[C@]1(CCC(=O)[O-])C(=O)[N:10]([H:20])C2=O 10=20;20,21=21",
"COc1ccc(C[NH2:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1ccc(C[NH2+:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[NH+](C)CCC[N+:21](=C(c1ccccc1)c1ccccc1Cl)[H:20].c1ccc2c(c1)c1cc[n+]3cc4c(cc3c1[n-:10]2)CCCC4>>C[NH+](C)CCC[N:21]=C(c1ccccc1)c1ccccc1Cl.c1ccc2c(c1)c1cc[n+]3cc4c(cc3c1[n:10]2[H:20])CCCC4 10=20;20,21=21",
"CC(C)[N+:21]1([H:20])C2CCCC21.Clc1cc(I)c([O-:10])c2ncccc12>>CC(C)[N:21]1C2CCCC21.Clc1cc(I)c([O:10][H:20])c2ncccc12 10=20;20,21=21",
"CC(C)C[NH:10][C@H](c1ccccc1)[C@H](O)c1ccccc1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC(C)C[NH+:10]([C@H](c1ccccc1)[C@H](O)c1ccccc1)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CCOc1ccc2c(c1)c(N1CCOCC1)c1c([n:10]2)CCC1.CO[C@H]1C[C@@H]1C(=O)[O:21][H:20]>>CCOc1ccc2c(c1)c(N1CCOCC1)c1c([n+:10]2[H:20])CCC1.CO[C@H]1C[C@@H]1C(=O)[O-:21] 10=20;20,21=21",
"CCC(C)(C)[NH:10]C1CCCCC1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCC(C)(C)[NH+:10](C1CCCCC1)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC[N:10](CC)CC(=O)[O-].COc1cccc([O:21][H:20])c1>>CC[N+:10](CC)(CC(=O)[O-])[H:20].COc1cccc([O-:21])c1 10=20;20,21=21",
"Nc1ccc(S(=O)(=O)[N-:10]c2nccs2)cc1/N=N/c1ccccc1.Oc1c[n+:21]([H:20])cc2ccccc12>>Nc1ccc(S(=O)(=O)[N:10](c2nccs2)[H:20])cc1/N=N/c1ccccc1.Oc1c[n:21]cc2ccccc12 10=20;20,21=21",
"C[N+:21]1([H:20])CC[C@]23c4c5ccc(O)c4O[C@H]2[C@@H](O)C=C[C@H]3[C@H]1[C@H]5O.c1cc(CC[NH2:10])ccn1>>C[N:21]1CC[C@]23c4c5ccc(O)c4O[C@H]2[C@@H](O)C=C[C@H]3[C@H]1[C@H]5O.c1cc(CC[NH2+:10][H:20])ccn1 10=20;20,21=21",
"CC(C)(C)[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC=C(C(F)(F)F)C=C1)[H:20]>>CC(C)(C)[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC=C(C(F)(F)F)C=C1 10=20;20,21=21",
"CCCCCOc1ccc(C(=O)[O:21][H:20])cc1.[NH3+]C1CC[N:10](Cc2ccccc2)CC1>>CCCCCOc1ccc(C(=O)[O-:21])cc1.[NH3+]C1CC[N+:10](Cc2ccccc2)([H:20])CC1 10=20;20,21=21",
"Cc1cc(C)cc([NH2+:21][H:20])c1.Cn1c2ccccc2c[n:10]1>>Cc1cc(C)cc([NH2:21])c1.Cn1c2ccccc2c[n+:10]1[H:20] 10=20;20,21=21",
"CC[N:10]1CCCC1CNC(=O)c1c(OC)ccc([N+](=O)[O-])c1[O-].O=[N+]([O-])c1ccc([N:21](C=S)[H:20])cc1>>CC[N+:10]1([H:20])CCCC1CNC(=O)c1c(OC)ccc([N+](=O)[O-])c1[O-].O=[N+]([O-])c1ccc([N-:21]C=S)cc1 10=20;20,21=21",
"CN(C)c1cccc2cccc([N+:21](C)(C)[H:20])c12.CN(c1ccccc1)C([OH2+])[O-:10]>>CN(C)c1cccc2cccc([N:21](C)C)c12.CN(c1ccccc1)C([OH2+])[O:10][H:20] 10=20;20,21=21",
"C1=C(c2nc3ccccc3s2)C2CC[N:10]1CC2.[NH3+]c1ccc(-c2sc3ccccc3[n+:21]2[H:20])cc1>>C1=C(c2nc3ccccc3s2)C2CC[N+:10]1([H:20])CC2.[NH3+]c1ccc(-c2sc3ccccc3[n:21]2)cc1 10=20;20,21=21",
"CC(C)NCC[NH:10]C(C)C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)NCC[NH+:10](C(C)C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C(NCC[N:10]1CCOCC1)c1ccc(Cl)cc1.c1ccc([NH+:21](CC[NH+]2CCCCC2)[H:20])cc1>>O=C(NCC[N+:10]1([H:20])CCOCC1)c1ccc(Cl)cc1.c1ccc([NH:21]CC[NH+]2CCCCC2)cc1 10=20;20,21=21",
"CCCC[NH:10]CCC(=O)[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCC[NH+:10](CCC(=O)[O-])[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCC(C)[NH:10]C(C)CC.C[C@H]1[C@@H]([NH3+])[C@@H](C)[C@@H]([NH2+:21][H:20])[C@@H](C)[C@H]1[NH3+]>>CCC(C)[NH+:10](C(C)CC)[H:20].C[C@H]1[C@@H]([NH3+])[C@@H](C)[C@@H]([NH2:21])[C@@H](C)[C@H]1[NH3+] 10=20;20,21=21",
"C[Si](C)(CNC1CCCCC1)O[Si](C)(C)C[NH:10]C1CCCCC1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C[Si](C)(CNC1CCCCC1)O[Si](C)(C)C[NH+:10](C1CCCCC1)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"C[C@H](CCC[NH:10]Cc1ccccc1)[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.[NH3+]c1ccccc1C(=O)[O:21][H:20]>>C[C@H](CCC[NH+:10](Cc1ccccc1)[H:20])[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.[NH3+]c1ccccc1C(=O)[O-:21] 10=20;20,21=21",
"C[N+](C)(C)CCCc1ccccc1[O:21][H:20].Cc1ccc2c(c1)cc1cc(C)ccc1[n:10]2>>C[N+](C)(C)CCCc1ccccc1[O-:21].Cc1ccc2c(c1)cc1cc(C)ccc1[n+:10]2[H:20] 10=20;20,21=21",
"CC[C@]1(O)C[C@@H](C)[NH:10][C@@H]2CCCC[C@H]21.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC[C@]1(O)C[C@@H](C)[NH+:10]([H:20])[C@@H]2CCCC[C@H]21.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CC=C=CC(C)(C)C(=O)[O-:10].c1ccc(CNc2nc[nH+]c3[nH]c[n+:21]([H:20])c23)cc1>>CC=C=CC(C)(C)C(=O)[O:10][H:20].c1ccc(CNc2nc[nH+]c3[nH]c[n:21]c23)cc1 10=20;20,21=21",
"C=CC(C)(C)[NH:10]C(C)(C)CC.CC1=C([O:21][H:20])C(=O)C=CC=C1>>C=CC(C)(C)[NH+:10](C(C)(C)CC)[H:20].CC1=C([O-:21])C(=O)C=CC=C1 10=20;20,21=21",
"CNCC[NH:10]C.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CNCC[NH+:10](C)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"Cc1nc(N)c2cn[n-:10]c2n1.Nc1ccccc1B(O)[O:21][H:20]>>Cc1nc(N)c2cn[n:10]([H:20])c2n1.Nc1ccccc1B(O)[O-:21] 10=20;20,21=21",
